US04448781
Treatment of 2-(1-imidazolylmethyl)phenol with sodium hydride in dry N,N-dimethylformamide followed by ethyl bromoacetate as described in Example 11B gave 2-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester as an oil which was used without further characterisation.

reactant | 2-(1-imidazolylmethyl)phenol | N1C(=NC=C1)CC1=C(C=CC=C1)O | C10H10N2O
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)CC=1NC=CN1)=O | C14H16N2O3
